US07132419B2
4-Dimethylaminomethyl-3-hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
3-Hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (26 mg) was sonicated in acetic acid (2 mL) to give a fine suspension. To this was added a 40% solution of dimethylamine in water (3 mL) and a 37% solution of formaldehyde in water (3 mL). The reaction mixture was left stirring for 2 days. The volatiles were then removed in vacuo to yield the title compound (29 mg).

reactant | 3-Hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 26 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC(=C4)O)C | C21H20N4O2
reactant | dimethylamine | CNC | C2H7N
reactant | formaldehyde | C=O | CH2O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | water | 3 mL | O | H2O
solvent | water | 3 mL | O | H2O
product | 4-Dimethylaminomethyl-3-hydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 29 mg | CN(CCNC(=O)C1=CC=CC2=NC3=CC=C4C(=C3N=C12)C=CC(=C4CN(C)C)O)C | C24H27N5O2
